US03939166
4-Chloro-7-nitro-5-cyano-2-trifluoromethylbenzimidazole is reacted with 2-ethylcyclobutylamine to obtain 4-((2-ethylcyclobutyl)amino)-7-nitro-5-cyano-2-trifluoromethylbenzimidazole, m.w., 353.3.

reactant | 4-Chloro-7-nitro-5-cyano-2-trifluoromethylbenzimidazole | ClC1=C(C=C(C=2N=C(NC21)C(F)(F)F)[N+](=O)[O-])C#N | C9H2ClF3N4O2
reactant | 2-ethylcyclobutylamine | C(C)C1C(CC1)N | C6H13N
product | 4-((2-ethylcyclobutyl)amino)-7-nitro-5-cyano-2-trifluoromethylbenzimidazole | C(C)C1C(CC1)NC1=C(C=C(C=2N=C(NC21)C(F)(F)F)[N+](=O)[O-])C#N | C15H14F3N5O2
